US08871760B2
To a stirring mixture of NaH (1.1 g, 45.7 mmol) in THF (30 mL) at room temperature under N2 atmosphere was added dropwise a solution of (R)-2-amino-2-(4-fluoro-phenyl)-ethanol (5.0 g, 32.2 mmol) in THF (50 mL). The reaction mixture was stirred at room temperature for 30 minutes, then cooled to 0° C. A solution of ethyl chloroacetate (4.0 g, 33 mmol) in THF (30 mL) was added dropwise, and the reaction mixture was stirred for 30 minutes at 0° C., then stirred at room temperature for two hours. The reaction mixture was concentrated under reduced pressure, and water (50 mL) was added to the residue. The resulting mixture was pH adjusted to approximately 6.5 by addition of 1M aqueous HCl, and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was recrystallized from diethyl ether to give 2.87 g of (R)-5-(4-fluoro-phenyl)-morpholin-3-one. The mother liquor from the recrystallization was concentrated and purified via chromatography (50-70% ethyl acetate in hexanes) to give an additional 1.0 g of (R)-5-(4-fluoro-phenyl)-morpholin-3-one.

reactant | NaH | 45.7 mmol, 1.1 g | [H-].[Na+]
reactant | (R)-2-amino-2-(4-fluoro-phenyl)-ethanol | 32.2 mmol, 5.0 g | N[C@@H](CO)C1=CC=C(C=C1)F | C8H10FNO
reactant | ethyl chloroacetate | 33 mmol, 4.0 g | ClCC(=O)OCC | C4H7ClO2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (R)-5-(4-fluoro-phenyl)-morpholin-3-one | 2.87 g | FC1=CC=C(C=C1)[C@@H]1COCC(N1)=O | C10H10FNO2
